US08871790B2
Compound 347.4. 3-Amino-4-methylbenzohydrazide
Into a round-bottom flask, was placed a solution of methyl 3-amino-4-methylbenzoate (6.60 g, 40.0 mmol, 1.00 equiv) in ethanol (100 mL). Hydrazine hydrate (10.0 g, 200 mmol, 5.00 equiv) was added to the reaction. The resulting solution was stirred for 2 h at 100° C. in an oil bath. After cooling to ambient temperature, the mixture was concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate (20 mL). The aqueous layer was extracted with 4×20 mL of ethyl acetate and the combined organic layers were dried over anhydrous sodium sulfate, concentrated under reduced pressure, and dried under high-vacuum to yield 4.60 g (70%) of the title compound as a brown solid.

reactant | methyl 3-amino-4-methylbenzoate | 40.0 mmol, 6.60 g, 1.00 equiv | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
reactant | Hydrazine hydrate | 200 mmol, 10.0 g, 5.00 equiv | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Amino-4-methylbenzohydrazide | 4.60 g, 70% | NC=1C=C(C(=O)NN)C=CC1C | C8H11N3O
